US09029531B2
Step A: (6-(2-methoxy-2-oxoethyl)pyridin-3-yl)methanaminium chloride
To a solution of methyl 2-(5-cyanopyridin-2-yl)acetate (1.2 g, 6.8 mmol) in methanol (20 ml) was added hydrogen chloride in methanol (4 M, 20 ml), and then Pd/C (200 mg). Then the reaction mixture was hydrogenated under hydrogen atmosphere overnight. The reaction mixture was filtered, the filtrate was concentrated to give the crude product and was washed by ethyl acetate to give the desired product. LC-MS: m/z (M+H)=181.5

reactant | methyl 2-(5-cyanopyridin-2-yl)acetate | 6.8 mmol, 1.2 g | C(#N)C=1C=CC(=NC1)CC(=O)OC | C9H8N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 4 M, 20 ml | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (6-(2-methoxy-2-oxoethyl)pyridin-3-yl)methanaminium chloride | [Cl-].COC(CC1=CC=C(C=N1)C[NH3+])=O | InChI=1S/C9H12N2O2.ClH/c1-13-9(12)4-8-3-2-7(5-10)6-11-8;/h2-3,6H,4-5,10H2,1H3;1H
